US06927220B2
Compound 8: N-(3-{4-[3-Methyl-4-(pyridin-3-yloxy)-phenylamino]-pyrido[3,4-d]pyrimidin-6-yl}-3-aza-bicyclo[3.1.0]hex-6-yl)-2-methylsulfanyl-acetamide.
To a solution of 34 μL (0.39 mmol) of methylthioacetic acid in 1 mL of methylene chloride in a ice/brine bath was added 62.8 mg (0.39 mmol) of carbonyl diimidazole. The mixture was stirred for 15 minutes and 150 mg (0.353 mmol) of [6-(6-amino-3-aza-bicyclo[3.1.0]hex-3-yl)-pyrido[3,4-d]pyrimidin-4-yl]-[3-methyl-4-(pyridin-3-yloxy)-phenyl]-amine was added along with additional methylene chloride to aid stirring. After stirring for 1 hour, the reaction was filtered and the precipitate was washed with methylene chloride and air dried. The solid was recrystallized from methanol/methylene chloride to afford 112 mg (62%) of the title compound. 1H NMR (CDCl3): δ 8.83 (s, 1), 8.35 (s, 1), 8.25 (m, 2), 7.72 (m, 1), 7.62 (m, 1), 7.24 (m, 2), 7.07 (s, 1), 6.91 (d, 1), 3.92 (d, 2), 3.52 (m, 2), 3.13 (s, 2), 2.48 (m, 1), 2.22 (s, 3), 2.10 (s, 3), 1.89 (m, 2), M.S. (m+1): 514. HPLC retention time (minutes): 5.154.

reactant | methylthioacetic acid | 0.39 mmol, 34 μL | CCC(=S)O | C3H6OS
reactant | carbonyl diimidazole | 0.39 mmol, 62.8 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | [6-(6-amino-3-aza-bicyclo[3.1.0]hex-3-yl)-pyrido[3,4-d]pyrimidin-4-yl]-[3-methyl-4-(pyridin-3-yloxy)-phenyl]-amine | 0.353 mmol, 150 mg | NC1C2CN(CC12)C1=CC2=C(N=CN=C2NC2=CC(=C(C=C2)OC=2C=NC=CC2)C)C=N1 | C24H23N7O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(3-{4-[3-Methyl-4-(pyridin-3-yloxy)-phenylamino]-pyrido[3,4-d]pyrimidin-6-yl}-3-aza-bicyclo[3.1.0]hex-6-yl)-2-methylsulfanyl-acetamide | 112 mg, 62% | CC=1C=C(C=CC1OC=1C=NC=CC1)NC=1C2=C(N=CN1)C=NC(=C2)N2CC1C(C1C2)NC(CSC)=O | C27H27N7O2S
